US09108934B2
(2R,4R)-5-(3′-Chlorobiphenyl-4-yl)-4-{[3-(2-fluorophenyl)isoxazole-5-carbonyl]amino}-2-hydroxypentanoic Acid
To a mixture of 3-(2-fluorophenyl)isoxazole-5-carboxylic acid (14.3 mg, 69 μmol) and HATU (26.2 mg, 69 μmol) in DMF (0.5 mL, 6 mmol) at room temperature, was added (2R,4R)-4-amino-5-(3′-chlorobiphenyl-4-yl)-2-hydroxypentanoic acid ethyl ester (20.0 mg, 58 μmol) and DIPEA (20.0 μL, 115 μmol). The mixture was stirred at room temperature overnight. MeOH (2.0 mL, 49 mmol), water (1.0 mL, 56 mmol), and LiOH monohydrate (9.7 mg, 230 μmol) was added, and the resulting mixture was stirred at room temperature for 1 hour. The resulting solids were filtered and rinsed with MeCN and water to yield the title compound (17.1 mg). MS m/z [M+H]+ calc'd for C27H22ClFN2O5, 509.12. found 509.

reactant | 3-(2-fluorophenyl)isoxazole-5-carboxylic acid | 69 μmol, 14.3 mg | FC1=C(C=CC=C1)C1=NOC(=C1)C(=O)O | C10H6FNO3
reactant | HATU | 69 μmol, 26.2 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DMF | 6 mmol, 0.5 mL | CN(C)C=O | C3H7NO
reactant | (2R,4R)-4-amino-5-(3′-chlorobiphenyl-4-yl)-2-hydroxypentanoic acid ethyl ester | 58 μmol, 20.0 mg | C(C)OC([C@@H](C[C@@H](CC1=CC=C(C=C1)C1=CC(=CC=C1)Cl)N)O)=O | C19H22ClNO3
reactant | DIPEA | 115 μmol, 20.0 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | MeOH | 49 mmol, 2.0 mL | CO | CH4O
reactant | water | 56 mmol, 1.0 mL | O | H2O
product | (2R,4R)-5-(3′-Chlorobiphenyl-4-yl)-4-{[3-(2-fluorophenyl)isoxazole-5-carbonyl]amino}-2-hydroxypentanoic Acid | 17.1 mg | ClC=1C=C(C=CC1)C1=CC=C(C=C1)C[C@H](C[C@H](C(=O)O)O)NC(=O)C1=CC(=NO1)C1=C(C=CC=C1)F | C27H22ClFN2O5
